US09416137B2
A mixture of (2R,6R,11R)-N-(2,4-dimethoxybenzyl)-3-(2-methoxyethyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methanobenzo[d]azocine-8-carboxamide (360 mg, 0.80 mmol) in trifluoroacetic acid (5 mL) was stirred at ambient temperature for 2 hours. The mixture was concentrated under reduced pressure before quenching with ice/ammonium hydroxide (28%) (25 mL). The crude product was extracted twice to using dichloromethane (100 mL) and the combined organic layers dried (MgSO4). Filtration and removal of the solvent under reduced pressure gave the crude product that was purified by prep-HPLC giving (2R,6R,11R)-3-(2-methoxyethyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methanobenzo[d]azocine-8-carboxamide (130 mg, 54% yield); LC/MS (M+H)+=303.2.

reactant | (2R,6R,11R)-N-(2,4-dimethoxybenzyl)-3-(2-methoxyethyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methanobenzo[d]azocine-8-carboxamide | 0.80 mmol, 360 mg | COC1=C(CNC(=O)C2=CC3=C(C[C@H]4N(CC[C@@]3([C@H]4C)C)CCOC)C=C2)C=CC(=C1)OC | C27H36N2O4
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (2R,6R,11R)-3-(2-methoxyethyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methanobenzo[d]azocine-8-carboxamide | 130 mg, 54% yield | COCCN1[C@@H]2CC3=C([C@](CC1)([C@H]2C)C)C=C(C=C3)C(=O)N | C18H26N2O2
